US07135475B2
A solution of 1-trityl-1H-imidazole-4-carboxylic acid (4-{[6-amino-1-butyl-3-(2-fluoro-benzyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-ylcarbamoyl]-methyl}-phenyl)-amide (68.5 mg, 0.09 mmol) in methanol (2.0 mL) at 25° C. was treated with a 10% aqueous sodium hydroxide solution (1.06 mL, 0.26 mmol). The reaction was then warmed to 50° C. for 1 h. At this time, additional methanol (1.0 mL) was added. The reaction was continued at 50° C. for 2.5 h. At this time, the reaction was treated with a 3N aqueous hydrochloric acid solution (0.88 mL) and was stirred for 10 min. The resulting solid was collected by filtration, washed with water, and was dried in vacuo to afford 1-trityl-1H-imidazole-4-carboxylic acid {4-[3-butyl-1-(2-fluoro-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-amide (46.6 mg, 69.6%): EI-HRMS m/e calcd for C46H40N7O3F (M+) 757.3177, found 757.3160.

reactant | 1-trityl-1H-imidazole-4-carboxylic acid (4-{[6-amino-1-butyl-3-(2-fluoro-benzyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-ylcarbamoyl]-methyl}-phenyl)-amide | 0.09 mmol, 68.5 mg | NC1=C(C(N(C(N1CCCC)=O)CC1=C(C=CC=C1)F)=O)NC(=O)CC1=CC=C(C=C1)NC(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C46H42FN7O4
reactant | sodium hydroxide | 0.26 mmol, 1.06 mL | [OH-].[Na+]
reactant | hydrochloric acid | 3N, 0.88 mL | Cl | ClH
solvent | methanol | 2.0 mL | CO | CH4O
solvent | methanol | 1.0 mL | CO | CH4O
product | 1-trityl-1H-imidazole-4-carboxylic acid {4-[3-butyl-1-(2-fluoro-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-amide | 46.6 mg, 69.6% | C(CCC)N1C(N(C(C=2NC(=NC12)CC1=CC=C(C=C1)NC(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)CC1=C(C=CC=C1)F)=O | C46H40FN7O3
